US04040784
20.25 Grams (41.8 mmoles) of cholesteryl hydrogen succinate (sold by Aldrich Chemicals) and 19.8 ml (83.4 mmoles) of tributylamine were dissolved in 540 ml of Dioxane. The solution was cooled and treated with 5.3 ml (5.7 g, 41.7 mmoles) of isobutyl chloroformate. The reaction was permitted to proceed in the cold for 30 minutes, and then the mixture was added in one portion to a stirred, cooled solution of 50.0 g (41.7 moles) of bovine serum albumin in 1100 ml of water, 750 ml of p-dioxane, and 50 ml of 1 N NaOH. Stirring and cooling was continued for 6 hours. The material was then dialyzed against water and lyophilized to yield a stable white powder useful as a cholesterol standard.

reactant | cholesteryl hydrogen succinate | 41.8 mmoles | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)CCC(=O)O)C)C | C31H50O4
reactant | tributylamine | 83.4 mmoles, 19.8 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | isobutyl chloroformate | 41.7 mmoles, 5.3 ml, 5.7 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaOH | 1 N, 50 ml | [OH-].[Na+]
solvent | Dioxane | 540 ml | O1CCOCC1 | C4H8O2
solvent | water | 1100 ml | O | H2O
solvent | p-dioxane | 750 ml | O1CCOCC1 | C4H8O2
product | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
